US04963566
To a solution of 1-ethyl-4-methylamino-8-(2-benzimidazolyl)thiomethyl-1,2,3,4-tetrahydroquinoline (900 mg) in methanol (20 ml) was added glyoxal (10 ml) and the mixture was stirred for 3 hours at room temperature. The solvent was distilled off and the resulting residue was dissolved in methanol, and to this mixture was added gradually sodium borohydride (1 g). After stirring the mixture for 1 hour at room temperature, the reaction mixture was concentrated. The resulting residue was extracted with dichloromethane and dried over anhydrous magnesium sulfate. The residue obtained by distilling off the solvent was purified by silica gel column chromatography [eluent:dichloromethane-methanol (99:1)] to give 1-ethyl-4-[N-methyl-N-(2-hydroxyethyl)amino]-8-(2-benzimidazolyl)thiomethyl-1,2,3,4-tetrahydroquinoline (510 mg).

reactant | 1-ethyl-4-methylamino-8-(2-benzimidazolyl)thiomethyl-1,2,3,4-tetrahydroquinoline | 900 mg | C(C)N1CCC(C2=CC=CC(=C12)CSC=1NC2=C(N1)C=CC=C2)NC | C20H24N4S
reactant | glyoxal | 10 ml | C(=O)C=O | C2H2O2
solvent | methanol | 20 ml | CO | CH4O
product | 1-ethyl-4-[N-methyl-N-(2-hydroxyethyl)amino]-8-(2-benzimidazolyl)thiomethyl-1,2,3,4-tetrahydroquinoline | 510 mg | C(C)N1CCC(C2=CC=CC(=C12)CSC=1NC2=C(N1)C=CC=C2)N(CCO)C | C22H28N4OS
